US07642264B2
5-{4-[4-(4-Chloro-3-methyl-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-pyridin-2-yl}-thiophene-2-sulfonic acid amide
To a cooled and stirred solution of 5-{4-[4-(4-chloro-3-methyl-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-pyridin-2-yl}-thiophene-2-sulfonic acid tert-butyl amide (0.14 g) in dichloromethane (4 ml) was added TFA (4 ml) and the reaction mixture was allowed to stir at room temperature for 15 h. The mixture was evaporated to dryness, poured into 2N Na2CO3 solution (25 ml) and extracted with ethyl acetate (3×50 ml). The combined organic layers were washed with brine (50 ml), dried (MgSO4) and evaporated. Further purification by crystallization (ethyl acetate/heptane) yielded the title compound as a white solid (0.048 g, 26%). MS (ISP) 511.1 [(M+H)+]; mp 280° C.

reactant | 5-{4-[4-(4-chloro-3-methyl-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-pyridin-2-yl}-thiophene-2-sulfonic acid tert-butyl amide | 0.14 g | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C1=NC=CC(=C1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)C)C(F)(F)F | C25H22ClF3N4O2S2
reactant | TFA | 4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 5-{4-[4-(4-Chloro-3-methyl-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-pyridin-2-yl}-thiophene-2-sulfonic acid amide | 0.048 g, 26% | ClC1=C(C=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C1=CC(=NC=C1)C1=CC=C(S1)S(=O)(=O)N)C | C21H14ClF3N4O2S2
